US05990101
(5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(imidazo[5,1-b]thiazolium-6-yl)methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 43 mg of allyl (5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-carbapen-2-em-3-carboxylate and 31 mg of imidazo[5,1-b]thiazole were used, thereby obtaining 5.1 mg of the title compound.

reactant | allyl (5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-carbapen-2-em-3-carboxylate | 43 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)CO)C(=O)OCC=C)C1=O | C17H21NO7
reactant | imidazo[5,1-b]thiazole | 31 mg | S1C=2N(C=C1)C=NC2 | C5H4N2S
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(imidazo[5,1-b]thiazolium-6-yl)methyl-1-carbapen-2-em-3-carboxylate | 5.1 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)CN2C=[N+]3C(SC=C3)=C2)C(=O)[O-])C1=O | C15H15N3O4S
